US06833380B2
Preparation of Chroman-5-ol (compound 1A)
To a solution of 5-hydroxy-chromen-4-one (J. Het. Chem, 13, 1976, 211) (2.5 g, 15.4 mmol) and 1 mL HCl(c) in 75 mL de-gassed EtOH/THF (3:1) was added 0.5 g 10% Pd/C. The reaction mixture was stirred at room temperature for 20 h under an atmosphere of 1 atm H2(g). The Pd/C was then filtered off, the filtrate collected and concentrated in vacuo to give 2.1 g (91%) of the title compound pure enough for subsequent use. 400 MHz 1H NMR (DMSO-d6) δ 9.27 (s, 1H), 6.76 (t, 1H, J=8.1 Hz), 6.26 (d, 1H, J=8.1 Hz), 6.12 (d, 1H, J=8.1 Hz), 3.98 (t, 2H, J=5.0 Hz), 2.46 (m, 2H), 1.80 (m, 2H).

reactant | 5-hydroxy-chromen-4-one | 15.4 mmol, 2.5 g | OC1=C2C(C=COC2=CC=C1)=O | C9H6O3
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | EtOH THF | CCO.C1CCOC1
product | Chroman-5-ol | 2.1 g, 91% | O1CCCC=2C(=CC=CC12)O | C9H10O2
